US07230011B2
8-Methoxy-1-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline
By a method similar to Preparation 11, using 8-methoxy-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline (0.28 g, 1.5 mmol), and N-methylpiperidone (Aldrich, 0.68 g, 6.0 mmol) 0.12 g (27%) of title compound was obtained: 1H NMR (300 MHz, CDCl3): 2.18-22.24 (m, 2H), 2.77 (s, 3H), 2.89-2.97 (m, 4H), 3.21 (t, 2H, J=61 Hz), 3.68-3.49 (m, 2H), 3.85 (s, 3H), 4.10 (t, 2H, J=5.7 Hz), 6.02 (m, 1H), 6.65-6.66 (m, 1H), 7.04-7.06 (m, 2H); MS (ELECTROSPRAY): m/e 283.0 (M+1).

reactant | 8-methoxy-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline | 1.5 mmol, 0.28 g | COC=1C=C2CCCN3C2=C(C1)C=C3 | C12H13NO
reactant | N-methylpiperidone | 6.0 mmol, 0.68 g | CN1C(CCCC1)=O | C6H11NO
product | 8-Methoxy-1-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline | COC=1C=C2CCCN3C2=C(C1)C(=C3)C=3CCN(CC3)C | C18H22N2O
